US06809110B2
In analogy to the procedure described in example 10 c], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 10 b]) was reacted with 2-[2-(4-methoxy-phenyl)-5-methyl-thiazol-4-yl]-ethanol (prepared from [rac]-4-bromo-3-oxo-pentanoic acid methyl ester [PCT Int. Appl. (2001), WO 01/79202] and 4-methoxy-thiobenzamide in analogy to the procedures described in examples 12 a] and 12 b]) in the presence of triphenylphosphine and di-tert-butyl azodicarboxylate to yield [rac]-2-ethoxy-3-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-propionic acid ethyl ester as yellow crystals.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 2-[2-(4-methoxy-phenyl)-5-methyl-thiazol-4-yl]-ethanol | COC1=CC=C(C=C1)C=1SC(=C(N1)CCO)C | C13H15NO2S
reactant | [rac]-4-bromo-3-oxo-pentanoic acid methyl ester | COC(CC(C(C)Br)=O)=O | C6H9BrO3
reactant | 4-methoxy-thiobenzamide | COC1=CC=C(C(=S)N)C=C1 | C8H9NOS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
product | [rac]-2-ethoxy-3-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCCC=1N=C(SC1C)C1=CC=C(C=C1)OC)C)OCC)=O | C27H33NO5S
